US05136044
To one gram of N2 -(1(S)-cyano-3-phenylpropyl)-N6 -trifluoroacetyl-L-lysine were added 35 ml of 25 N sulfuric acid and 5 ml of ethanol at 0° C. followed by stirring for 10 hours at 0° C. and after adding thereto 100 ml of water while cooling it well, the pH thereof was adjusted to about 4.5 with 6N sodium hydroxide. The reaction product formed was washed with 100 ml of ether, extracted thrice each with 100 ml of methylene chloride, the extract was dried by anhydrous sodium sulfate, and then the solvent was distilled off to provide 720 ml of N2 -(1(S)-carbamyl-3-phenylpropyl)-N6 -trifluoroacetyl-L-lysyl-L-proline.

reactant | N2 (1(S)-cyano-3-phenylpropyl)-N6 -trifluoroacetyl-L-lysine | one gram | N#N.C(#N)[C@H](CCC1=CC=CC=C1)N[C@@H](CCCCNC(C(F)(F)F)=O)C(=O)O
reactant | sulfuric acid | 25 N, 35 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
product | N2 (1(S)-carbamyl-3-phenylpropyl)-N6 -trifluoroacetyl-L-lysyl-L-proline | 720 ml | N#N.C(N)(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](CCCCNC(C(F)(F)F)=O)C(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C23H31F3N4O5.N2/c24-23(25,26)22(35)28-13-5-4-9-17(20(32)30-14-6-10-18(30)21(33)34)29-16(19(27)31)12-11-15-7-2-1-3-8-15;1-2/h1-3,7-8,16-18,29H,4-6,9-14H2,(H2,27,31)(H,28,35)(H,33,34);/t16-,17-,18-;/m0./s1
